US05831105
15.3 ml (38.4 mmol) of a 2.5 molar solution of buthyllithium hexane were added to a solution of 6.07 g (19.2 mmol) dimethylbis(2-methylindenyl)-silane in 80 ml tetrahydrofuran. The mixture was refluxed for 2 hours prior to solvent evaporation. The residue was suspended in 30 ml of hexane, the suspension was filtrated and the dilithio-compound was dried in vacuo. The dilithio-compound was then added to a suspension of 4.47 g (19.2 mmol) zirconiumtetrachloride in 50 ml metylenchloride at -78° C. The suspension was slowly warmed to room temperature and stirred over night. The suspension was filtrated and the meso-compound was removed by extraction with toluene. The residue was extracted with 70 ml methylenchloride, the filtrat was concentrated and stored for crystallisation at -30° C. Filtration of the suspension afforded 3,20 g (35%) rac-dimethylsilandiylbis(2-methylindenyl)zirconocen dichloride.

reactant | hexane | CCCCCC | C6H14
reactant | dimethylbis(2-methylindenyl)-silane | 19.2 mmol, 6.07 g | C[Si](C1C(=CC2=CC=CC=C12)C)(C1C(=CC2=CC=CC=C12)C)C | C22H24Si
reactant | zirconiumtetrachloride | 19.2 mmol, 4.47 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | metylenchloride | 50 ml | C(Cl)Cl | CH2Cl2
product | rac-dimethylsilandiylbis(2-methylindenyl)zirconocen dichloride | 3,20 g, 35% | [Cl-].[Cl-].CC1=C([C-](C=C1)C1C(=CC2=CC=CC=C12)C)C.[SiH2]=[Zr+2].CC=1C(C2=CC=CC=C2C1)[C-]1C=CC=C1 | InChI=1S/C17H17.C15H13.2ClH.H2Si.Zr/c1-11-8-9-15(13(11)3)17-12(2)10-14-6-4-5-7-16(14)17;1-11-10-13-8-4-5-9-14(13)15(11)12-6-2-3-7-12;;;;/h4-10,17H,1-3H3;2-10,15H,1H3;2*1H;1H2;/q2*-1;;;;+2/p-2
